US04129561
dl-7,12-Dihydro-N,N-dimethyl-5,12-methanodibenz[c,f]azocine-6(5H)-ethanamine
Add a 1M benzene solution of sodium bis(2-methoxyethoxy)aluminum hydroxide (Red-Al®)(5.3 ml.) dropwise with stirring at room temperature to a solution of dl-6-(dimethylaminoacetyl)-5,6,7,12-tetrahydro-5,12-methanodibenz[c,f]azocine (2.8 g. of the free base) in benzene (27 ml.) over 0.5 hours. Reflux for 2 hours, cool, stir at room temperature then quench by careful addition of saturated aqueous ammonium chloride solution (1.85 ml.) dropwise with stirring. Filter and evaporate the filtrate in vacuo. Dissolve the residue in methylene chloride, wash with water, brine then dry and evaporate the solvent in vacuo to obtain 2.79 g. of the free base of the title product as a viscous oil. Treat the free base with two equivalents of fumaric acid in acetone to obtain the title product as the difumarate salt, m.p. 169°-171.5° C.

reactant | sodium bis(2-methoxyethoxy)aluminum hydroxide | 5.3 ml | [OH-].COCCO[Al+]OCCOC.[Na+].[OH-]
reactant | dl-6 (dimethylaminoacetyl)-5,6,7,12-tetrahydro-5,12-methanodibenz[c,f]azocine | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.CN(C)CC(=O)C1=CC=CC=2C3NCC4=C(C(C21)C3)C=CC=C4
solvent | benzene | 27 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 1M | C1=CC=CC=C1 | C6H6
product | 7,12-Dihydro-N,N-dimethyl-5,12-methanodibenz[c,f]azocine-6(5H)-ethanamine | CN(CCN1C2C3=C(C(C4=C(C1)C=CC=C4)C2)C=CC=C3)C | C20H24N2
